US04382088
A mixture of 5-amino-6-hydroxy-2,4,6-cycloheptatrien-1-one (5.76 g), described by T. Nozoe et al., Proc. Japan Acad., 27, 188 (1951), and diethyl ethoxymethylenemalonate (15.2 g) was heated at 140° C. for 2 hr. The reaction mixture was cooled and dissolved in ethanol. The resulting crystalline precipitate was collected, treated with charcoal in a chloroform solution and the recrystallized from ethanol to give 4.76 g of 2-[(4-hydroxy-5-oxo-1,3,6-cycloheptatriene-1-yl)aminomethylene]propanedioic acid (V; R7 =OH and R8 =C2H5), mp 175°-176° C.

reactant | 5-amino-6-hydroxy-2,4,6-cycloheptatrien-1-one | 5.76 g | NC1=CC=CC(C=C1O)=O | C7H7NO2
reactant | diethyl ethoxymethylenemalonate | 15.2 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | ethanol | C(C)O | C2H6O
product | 2-[(4-hydroxy-5-oxo-1,3,6-cycloheptatriene-1-yl)aminomethylene]propanedioic acid | 4.76 g | OC1=CC=C(C=CC1=O)NC=C(C(=O)O)C(=O)O | C11H9NO6
